US07625903B2
2-({5-Fluoro-2-[(4-formylphenyl)amino]-4-pyrimidinyl}amino)-N-(1-methylethyl)benzamide
A 50-mL of round bottom flask was charged with 2-[(5-fluoro-2-{[4-(hydroxymethyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide (200 mg, 0.5 mmol, 1.0 eq) and dioxane (20 mL). MnO2 (217 mg, 2.5 mmol, 5.0 eq) was added slowly to this solution. Upon completion of the addition, the reaction mixture was heated at reflux for 16 h. The reaction mixture was filtered through celite and the solvent was evaporated to produce the desired product (189 mg, 48% yield) which was found to be 82% pure by HPLC. MS: M(C21H20FN5O2)=393.42, (M+H)+=394. This crude material was used for next step without further purification.

reactant | 2-[(5-fluoro-2-{[4-(hydroxymethyl)phenyl]amino}-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide | 0.5 mmol, 200 mg, 1.0 eq | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)CO)NC1=C(C(=O)NC(C)C)C=CC=C1 | C21H22FN5O2
catalyst | MnO2 | 2.5 mmol, 217 mg, 5.0 eq | O=[Mn]=O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-({5-Fluoro-2-[(4-formylphenyl)amino]-4-pyrimidinyl}amino)-N-(1-methylethyl)benzamide | 189 mg, 48% yield | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)C=O)NC1=C(C(=O)NC(C)C)C=CC=C1 | C21H20FN5O2
